US04058539
A mixture of 500 mg of 3β,17β,19-trihydroxyandrosta-4,6,8(14)-triene, 1.0 ml of pyridine and 0.5 ml of acetic anhydride was left to stand at room temperature for 16 hours in an atmosphere of nitrogen. Dilution with water, followed by extraction with ether and concentration at reduced pressure gave 3β,17β,19-triacetoxyandrosta-4,6,8(14)-triene as a white crystalline product.

reactant | 3β,17β,19-trihydroxyandrosta-4,6,8(14)-triene | 500 mg | O[C@@H]1C=C2C=CC3=C4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)O | C19H26O3
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
product | 3β,17β,19-triacetoxyandrosta-4,6,8(14)-triene | C(C)(=O)O[C@@H]1C=C2C=CC3=C4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)COC(C)=O)OC(C)=O | C25H32O6
